US08022062B2
6-Benzylamino-nicotinonitrile:
Heat 6-chloroniconitrile (0.58 g, 4.2 mmol) and benzylamine (4.6 mL, 42 mmol) in anhydrous DMF (3 mL) at 120° C. for 4.5 h. Cool at room temperature. Dilute with water and extract with EtOAc. Wash the organic phase with brine, dry over MgSO4, filter, and concentrate in vacuo. Purify by chromatography on silica gel eluting sequentially with hexane/EtOAc (4:1, 2:1, 1:2) to give the desired intermediate as a white solid (840 mg, 96%). MS (ES+) m/z: 210 (4+H)+.

reactant | benzylamine | 42 mmol, 4.6 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Benzylamino-nicotinonitrile | 840 mg, 96% | C(C1=CC=CC=C1)NC1=NC=C(C#N)C=C1 | C13H11N3
